US06762321B2
Five hundred miligrams (500 mg) of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide (1.47 mmol), 0.11 g (1.47 mmol) of 3-chloropropyne and 5 ml of anhydrous N,N-dimethylformamide were mixed and 64 mg (1.61 mmol) of 60% sodium hydride was added thereto at 0-5° C. The mixture was stirred at 0-10° C. for 30 minutes and then stirred at room temperature. Water was added to the reaction mixture, followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (eluent, hexane:ethyl acetate=1:1) to give 180 mg of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-(2-propynyloxy)-2-(4-methylphenyl)acrylamide (the present compound 1182).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide | 1.47 mmol, 500 mg | COC=1C=C(C=CC1OC)CCNC(C(=CO)C1=CC=C(C=C1)C)=O | C20H23NO4
reactant | 3-chloropropyne | 1.47 mmol, 0.11 g | ClCC#C | C3H3Cl
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.61 mmol, 64 mg | [H-].[Na+]
solvent | Water | O | H2O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-(2-propynyloxy)-2-(4-methylphenyl)acrylamide | 180 mg | COC=1C=C(C=CC1OC)CCNC(C(=COCC#C)C1=CC=C(C=C1)C)=O | C23H25NO4
